US07087614B2
J1.1: 2-Amino-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester
A solution of oxalacetic acid diethyl ester (8.5 g, 45.2 mmol) in ethanol (100 mL) was treated with guanidine carbonate (8.1 g, 45.2 mmol) and this was stirred under reflux for 2 hours. The mixture was diluted with water, concentrated to removed ethanol, and the solid was collected by filtration. The solid was then suspended in ethanol (40 mL) and concentrated hydrochloric acid (1 mL) and refluxed for 15 minutes. The mixture was then cooled, basified with potassium carbonate, diluted with water and concentrated to removed ethanol. The white solid was collected by filtration and vacuum dried to give J1.1 (1.67 g, 20%). 1H-NMR (DMSO-d6) δ: 10.34 (1H, br s), 8.92 (1H, br s), 7.46 (1H, br, s), 5.42 (1H, s), 4.18 (2H, q, J=7 Hz), 1.24 (3H, t, J=7 Hz).

reactant | oxalacetic acid diethyl ester | 45.2 mmol, 8.5 g | C(C)OC(CC(=O)C(=O)OCC)=O | C8H12O5
reactant | guanidine carbonate | 45.2 mmol, 8.1 g | C(O)(O)=O.NC(=N)N
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Amino-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(NC(C1)=O)N | C7H9N3O3
